### PR TITLE
feat: ring hom support in `ring`

### PR DESCRIPTION
**Pull request by digama0**
As [requested on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/aroots/near/395750055). Adds support for distributing ring morphisms in `ring`:
```lean
example (p : ℤ[X]) (r : ℤ) : C (2 * r) * p = C r * p + C r * p := by ring
```

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: test/ring.lean [hunk 1]
```diff
@@ -156,3 +156,8 @@ example (p : R PUnit.{u+1} PUnit.{v+1}) : p + 0 = p := by
   ring_nf
 example (p q : R PUnit.{u+1} PUnit.{v+1}) : p + q = q + p := by
   ring_nf
+
+noncomputable def C {α} [Ring α] : α →+* R x α := test_sorry
```
Comment (eric-wieser) [inline test/ring.lean:160]: Can you add a test for:
*Ring equivs
*Alg homs
Too?

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
